US06566367B2
To a stirring mixture of 2-chloro-5-nitropyridine (5.0 g, 31.5 mmol), potassium carbonate (7.0 g, 50.4 mmol), in 65 ml of DMF add pyrrolidine (6.7 g, 95 mmol) and stir at room temperature for 72 h. Dilute reaction mixture with 100 ml EtOAc and wash 2 times with 100 ml saturated NaHCO3, and 2 times with 100 ml of brine. Dry organics over Na2SO4, and evaporate in vacuo to obtain 5-nitro-2-pyrrolidin-1-yl-pyridine. Mass spec.: m+1=194 (AP+).

reactant | 2-chloro-5-nitropyridine | 31.5 mmol, 5.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 50.4 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 95 mmol, 6.7 g | N1CCCC1 | C4H9N
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | 5-nitro-2-pyrrolidin-1-yl-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)N1CCCC1 | C9H11N3O2
